US05273999
Preparation of 1-[2,4-Dimethoxy-3-(3-phenylpropyl)phenyl]ethanone
A solution of 15.28 g (59.6 mmol) of 1,3-dimethoxy-2-(3-phenylpropyl)benzene from the preceding example, and 4.68 g (59.6 mmol) of acetyl chloride, in 306 mL of dichloromethane was stirred at -5° to 0° C. and 7.95 g (59.6 mmol) of aluminum chloride was added. The resulting mixture was stirred at -5° to 0° C. for 2 hr and then allowed to warm to room temperature before being poured onto ice. Work-up with ether in the usual manner gave a product which was chromatographed on silica gel. Elution with 7:3 hexane-ether afforded 10.0 g (56.3%) of the title compound as a pale-yellow oil.

reactant | 1,3-dimethoxy-2-(3-phenylpropyl)benzene | 59.6 mmol, 15.28 g | COC1=C(C(=CC=C1)OC)CCCC1=CC=CC=C1 | C17H20O2
reactant | acetyl chloride | 59.6 mmol, 4.68 g | C(C)(=O)Cl | C2H3ClO
reactant | aluminum chloride | 59.6 mmol, 7.95 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ether | CCOCC | C4H10O
solvent | dichloromethane | 306 mL | ClCCl | CH2Cl2
product | 1-[2,4-Dimethoxy-3-(3-phenylpropyl)phenyl]ethanone | 10.0 g, 56.3% | COC1=C(C=CC(=C1CCCC1=CC=CC=C1)OC)C(C)=O | C19H22O3
